US08466282B2
6-fluoro-N-[(3S,5R)-5-(hydroxymethyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(hydroxymethyl)piperidine-1-carboxylate (182 mg) was dissolved in 10-20% hydrogen chloride-methanol (5 ml), and the mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated to give the object product (169 mg).

reactant | tert-Butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(hydroxymethyl)piperidine-1-carboxylate | 182 mg | FC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)CO)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1 | C28H43FN4O5
reactant | hydrogen chloride methanol | 5 ml | Cl.CO
product | 6-fluoro-N-[(3S,5R)-5-(hydroxymethyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride | 169 mg | Cl.Cl.FC=1C=CC2=C(N(C(=N2)C(=O)N(CC(C)C)[C@@H]2CNC[C@@H](C2)CO)CCCCOC)C1 | InChI=1S/C23H35FN4O3.2ClH/c1-16(2)14-28(19-10-17(15-29)12-25-13-19)23(30)22-26-20-7-6-18(24)11-21(20)27(22)8-4-5-9-31-3;;/h6-7,11,16-17,19,25,29H,4-5,8-10,12-15H2,1-3H3;2*1H/t17-,19+;;/m1../s1
